US09085586B2
To a 250-mL round-bottom flask was placed a solution of ethyl 4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidine-6-carboxylate (4.0 g, 14.39 mmol, 1.00 equiv) in 1,4-dioxane (50 mL) was added DDQ (8 g, 35.24 mmol, 2.45 equiv) at room temperature. The resulting solution was stirred for 3 h at 90° C. under nitrogen. After cooling, the reaction was quenched with saturated aqueous Na2CO3. The solids were filtered out and the filtration was extracted with 3×100 mL of dichloromethane. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1) to give the resulted ethyl 3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5,10,12-hexaene-12-carboxylate (2.2 g, 56%) as a brown solid.

reactant | ethyl 4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidine-6-carboxylate | 14.39 mmol, 4.0 g, 1.00 equiv | OC=1C2=C(N=CN1)SC1=C2CC(CC1)C(=O)OCC | C13H14N2O3S
reactant | DDQ | 35.24 mmol, 8 g, 2.45 equiv | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | ethyl 3-hydroxy-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5,10,12-hexaene-12-carboxylate | 2.2 g, 56% | OC=1C=2C=3C=C(C=CC3SC2N=CN1)C(=O)OCC | C13H10N2O3S
